US05691323
A mixture of 200 mg of ethyl 2-tert-butoxycarbonylamino-5-pyrimidinecarboxylate, 125 mg of potassium hydroxide and 15 mL of ethanol was heated to 70° C. for 3 h, cooled and concentrated under reduced pressure. The residue was dissolved in 50 mL of ice water, washed with 50 mL of ether, acidified to pH=3 with conc. HCl and extracted with 3×50 mL of chloroform. The combined organic extracts were dried (MgSO4) and concentrated under reduced pressure. Drying under vacuum gave 156 mg of 2-tert-butoxycarbonylamino-5-pyrimidinecarboxylic acid as a white solid.

reactant | ethyl 2-tert-butoxycarbonylamino-5-pyrimidinecarboxylate | 200 mg | C(C)(C)(C)OC(=O)NC1=NC=C(C=N1)C(=O)OCC | C12H17N3O4
reactant | potassium hydroxide | 125 mg | [OH-].[K+]
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | 2-tert-butoxycarbonylamino-5-pyrimidinecarboxylic acid | 156 mg | C(C)(C)(C)OC(=O)NC1=NC=C(C=N1)C(=O)O | C10H13N3O4
